US06995179B2
2) Synthesis of 3-(3-phenyl-2-propene-1-yl) 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-dimethoxylmethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate:
2.09 g (7.5 mmol) of (3-phenyl-2-propene-1-yl) 4,4-dimethoxy-3-oxobutyrate, 0.85 ml (7.5 mmol) of 3-chlorobenzaldehyde and 0.1 ml of piperidine were heated under reflux in 7.5 ml of benzene overnight while water was removed. The reaction liquid was washed was water and dried over anhydrous sodium sulfate. The solvent was distilled under reduced pressure, and the residue was heated together with 1.16 g (7.5 mmol) of 2-cyanoethyl 3-aminocrotonate at 70° C. in 37.5 ml of 2-propanol under stirring for four nights. The heating and stirring were continued at 120° C. overnight while 2-propanol was evaporated under atmospheric pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | (3-phenyl-2-propene-1-yl) 4,4-dimethoxy-3-oxobutyrate | 7.5 mmol, 2.09 g | COC(C(CC(=O)OCC=CC1=CC=CC=C1)=O)OC | C15H18O5
reactant | 3-chlorobenzaldehyde | 7.5 mmol, 0.85 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
reactant | 2-cyanoethyl 3-aminocrotonate | 7.5 mmol, 1.16 g | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
solvent | benzene | 7.5 ml | C1=CC=CC=C1 | C6H6
solvent | 2-propanol | 37.5 ml | CC(C)O | C3H8O
solvent | water | O | H2O
product | 3-(3-phenyl-2-propene-1-yl) 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-dimethoxylmethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCC#N)C)C(OC)OC)C(=O)OCC=CC1=CC=CC=C1 | C29H29ClN2O6
